US07678815B2
5-((Cyclopropylmethyl)-amino)-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide
5-Amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide (0.200 g, 0.806 mmol) was treated with cyclopropanecarboxaldehyde (0.230 g, 3.22 mmol) and tetraisopropyl-orthotitanate (0.916 g, 3.22 mmol) and stirred at room temperature overnight. Ethanol (5 mL) and sodium cyanoborohydride (0.213 g, 3.22 mmol) were added and the reaction mixture was stirred for 5 h. Water (0.5 mL) was added to the reaction mixture and the solvent was evaporated. The residue was purified by flash chromatography on silica gel with ethyl acetate/methanol 100:0→90:10 gradient to yield the title compound (0.110 g, 45%) as a light yellow solid, MS (ISP): m/e=303.1 (M+H+).

reactant | 5-Amino-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.806 mmol, 0.200 g | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1N)C | C11H12N4OS
reactant | cyclopropanecarboxaldehyde | 3.22 mmol, 0.230 g | C1(CC1)C=O | C4H6O
reactant | Ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 3.22 mmol, 0.213 g | C(#N)[BH3-].[Na+]
solvent | Water | 0.5 mL | O | H2O
product | 5-((Cyclopropylmethyl)-amino)-2-methyl-thiazole-4-carboxylic acid (2-methyl-pyridin-4-yl)-amide | 0.110 g, 45% | CC1=NC=CC(=C1)NC(=O)C=1N=C(SC1NCC1CC1)C | C15H18N4OS
